US06340759B1
Synthesis of 1-(1-ethylpiperazin-4-yl)-3-[2-(3-fluoropropyl)pyridin-5-yl]isoquinoline
Diethylaminosulfur trifluoride (53 ml) and pyridine hydrogen fluoride (320 ml) were dissolved in methylene chloride (3 ml), followed by the addition of 1-(1-ethylpiperazin-4-yl)-3-[5-(3-hydroxypropyl)pyridin-2-yl]isoquinoline (152 mg)/methylene chloride (2 ml) solution in nitrogen atmosphere at −70° C. After the cooling bath was removed, subsequently, the resulting mixture was stirred for 2 hr. The reaction solution was diluted with methylene chloride, washed sequentially with an aqueous solution of sodium bicarbonate and brine, dried (over MgSO4) and evaporated. The resulting residue was purified by (NH) silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (6 mg, yield; 5%).

reactant | Diethylaminosulfur trifluoride | 53 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | pyridine hydrogen fluoride | 320 ml | F.N1=CC=CC=C1
reactant | 1-(1-ethylpiperazin-4-yl)-3-[5-(3-hydroxypropyl)pyridin-2-yl]isoquinoline | 152 mg | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=NC=C(C=C1)CCCO | C23H28N4O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-(1-ethylpiperazin-4-yl)-3-[2-(3-fluoropropyl)pyridin-5-yl]isoquinoline | 6 mg, yield; 5% | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C=1C=CC(=NC1)CCCF | C23H27FN4
